US08008307B2
Step a: 4-{[(1R,3S,4S)-3-{[tert-butyl(dimethyl)silyl]oxy}-4-({[tert-butyl(dimethyl)silyl]oxy}-methyl)cyclopentyl]oxy}pyrimidine
A suspension of 4-{[(1R,3S,4S)-3-{[tert-butyl(dimethyl)silyl]oxy}-4-({[tert-butyl(dimethyl)silyl]oxy}methyl)cyclopentyl]oxy}-6-chloropyrimidine (115.5 mg, 0.0002441 mol), sodium carbonate (62 mg, 0.00058 mol) and 10% Pd/C (26 mg, 0.000024 mol) in methanol (1.1 mL) was stirred under an atmosphere of hydrogen for 2 days. The reaction was purged with nitrogen and filtered through celite with EtOAc. The filtrate was concentrated and the residue was purified by flash chromatography (0 to 15% EtOAc/hexanes) to obtain 80 mg (70%) of the title compound.

reactant | 4-{[(1R,3S,4S)-3-{[tert-butyl(dimethyl)silyl]oxy}-4-({[tert-butyl(dimethyl)silyl]oxy}methyl)cyclopentyl]oxy}-6-chloropyrimidine | 0.0002441 mol, 115.5 mg | [Si](C)(C)(C(C)(C)C)O[C@H]1C[C@@H](C[C@H]1CO[Si](C)(C)C(C)(C)C)OC1=NC=NC(=C1)Cl | C22H41ClN2O3Si2
reactant | sodium carbonate | 0.00058 mol, 62 mg | C([O-])([O-])=O.[Na+].[Na+]
solvent | methanol | 1.1 mL | CO | CH4O
catalyst | Pd/C | 0.000024 mol, 26 mg | [Pd] | Pd
product | 4-{[(1R,3S,4S)-3-{[tert-butyl(dimethyl)silyl]oxy}-4-({[tert-butyl(dimethyl)silyl]oxy}-methyl)cyclopentyl]oxy}pyrimidine | 80 mg, 70% | [Si](C)(C)(C(C)(C)C)O[C@H]1C[C@@H](C[C@H]1CO[Si](C)(C)C(C)(C)C)OC1=NC=NC=C1 | C22H42N2O3Si2
